US08110579B2
Reflux a solution of 7.54 g (14 mmol) of ethyl (2E,4E)-5-(2,6-dimethoxyphenyl)-2-[(triphenylphosphoranylidene)amino]penta-2,4-dienoate and 2.42 g (15.4 mmol) of 4-chloro-3-hydroxybenzaldehyde in 280 mL of anhydrous acetonitrile for 96 h. After cooling to RT, concentrate the reaction mixture under reduced pressure and purify the residue obtained by silica gel column chromatography, eluting with a cyclohexane/ethyl acetate (EtOAc) gradient from 0 to 30% of EtOAc. After concentration under reduced pressure, we obtain 2.4 g of ethyl 6-(4-chloro-3-hydroxyphenyl)-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate in the form of white powder.

reactant | ethyl (2E,4E)-5-(2,6-dimethoxyphenyl)-2-[(triphenylphosphoranylidene)amino]penta-2,4-dienoate | 14 mmol, 7.54 g | COC1=C(C(=CC=C1)OC)/C=C/C=C(\C(=O)OCC)/N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H32NO4P
reactant | 4-chloro-3-hydroxybenzaldehyde | 15.4 mmol, 2.42 g | ClC1=C(C=C(C=O)C=C1)O | C7H5ClO2
solvent | acetonitrile | 280 mL | C(C)#N | C2H3N
product | ethyl 6-(4-chloro-3-hydroxyphenyl)-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate | 2.4 g, Yield=41% | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OCC)C1=C(C=CC=C1OC)OC)O | C22H20ClNO5
